US05405979
17,17-bis-(ethylenedioxy)-11β-(4-methoxyphenyl)-5-estrene is dissolved in 50 ml of acetone and mixed under protective gas with 2.5 ml of 4 n aqueous hydrochloric acid. After three hours of stirring at room temperature and one hour at 40° C., the reaction mixture is poured on cold saturated sodium bicarbonate solution and the aqueous phase is extracted several times with methylene chloride. The combined organic phases are dried on sodium sulfate and concentrated by evaporation in a vacuum. The residue is chromatographed on silica gel-with a mixture of ethyl acetate/hexane. 683 mg of 11β-(4-methoxyphenyl)-4-estrene-3,17-dione is obtained as white foam.

reactant | 17,17-bis-(ethylenedioxy)-11β-(4-methoxyphenyl)-5-estrene | C1OC23[C@]4(C)[C@@H](CC2(OCCO3)OC1)[C@@H]1CC=C3CCCC[C@@H]3[C@H]1[C@H](C4)C4=CC=C(C=C4)OC | C29H38O5
reactant | hydrochloric acid | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 11β-(4-methoxyphenyl)-4-estrene-3,17-dione | 683 mg | COC1=CC=C(C=C1)[C@@H]1[C@@H]2[C@H]3CCC(C=C3CC[C@H]2[C@@H]2CCC([C@@]2(C)C1)=O)=O | C25H30O3
